US09056866B2
Step 4: (3S)-1-(3-benzyl-5-tert-butyl-triazolo[4,5-d]pyrimidin-7-yl)pyrrolidin-3-ol
3-benzyl-5-tert-butyl-7-chloro-3H-[1,2,3]triazolo[4,5-d]pyrimidine (192.2 g, 548 mmol, Eq: 1.00) was charged in the reactor followed by Acetonitrile (780 g, 1.0 l) and N-Ethyldiisopropylamine (108 g, 143 ml, 822 mmol, Eq: 1.5). (S)-Pyrrolidin-3-ol (54.1 g, 51.6 ml, 603 mmol, Eq: 1.1) was added dropwise over 30 min at Tr=20 to <30° C. After 2 h at 25° C., the reaction mixture was transferred with Toluene (865 g, 1.0 l) into a 3 l round bottom flask and it was concentrated on a rotary evaporator, to switch solvent to toluene. The toluene solution was washed with a 10% aqueous citric acid solution (1.0 l). The aqueous phase was separated and extracted with toluene (434 g, 500 ml). The org. phases were washed sequentially with half saturated aqueous NaHCO3 (500 ml) and half saturated aqueous NaCl (500 ml). The org. phases were combined, dried over MgSO4 and concentrated at 45° C. to ca 500 mL. Heptane (684 g, 1.0 l) was added under stirring. After 5-10 min the product started to crystallize. The white suspension was stirred for 2 h at RT and was filtered. The white filter cake was washed with heptane (274 g, 400 ml) and dried at 45° C./5 mbar to give 186.9 g of the title compound as a white powder. MS(m/e): 353.1 (MH+).

reactant | 3-benzyl-5-tert-butyl-7-chloro-3H-[1,2,3]triazolo[4,5-d]pyrimidine | 548 mmol, 192.2 g | C(C1=CC=CC=C1)N1N=NC2=C1N=C(N=C2Cl)C(C)(C)C | C15H16ClN5
reactant | Acetonitrile | 1.0 l, 780 g | C(C)#N | C2H3N
reactant | N-Ethyldiisopropylamine | 822 mmol, 143 ml, 108 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | (S)-Pyrrolidin-3-ol | 603 mmol, 51.6 ml, 54.1 g | N1C[C@H](CC1)O | C4H9NO
solvent | Toluene | 1.0 l, 865 g | C1(=CC=CC=C1)C | C7H8
product | (3S)-1-(3-benzyl-5-tert-butyl-triazolo[4,5-d]pyrimidin-7-yl)pyrrolidin-3-ol | 186.9 g | C(C1=CC=CC=C1)N1N=NC2=C1N=C(N=C2N2C[C@H](CC2)O)C(C)(C)C | C19H24N6O
